US04163789
To a warm solution of N-(1-cyclohexylmethylpiperid-4-yl)-2-methoxy-4-acetamido-5-chlorobenzamide (10 g; 0.023 moles) in diethyl ether (300 ml) a solution of methyl iodide (1.8 ml; 0.033 moles) in diethyl ether (25 ml) was added. The mixture was stirred at room temperature for 1 hour and then heated under reflux for 2 hours. An additional amount of methyl iodide (1 g; 0.0023 moles) was added and the reflux of the mixture was kept up for 3 more hours. The mixture was then evaporated in vacuo and the residue recrystallized from a mixture of diethyl ether-ethanol. N-(1-Cyclohexylmethylpiperid-4-yl)-2-methoxy-4-acetamido-5-chlorobenzamide methyl iodide (10.5 g), m.p. 209°-211° C., was thus obtained.

reactant | N-(1-cyclohexylmethylpiperid-4-yl)-2-methoxy-4-acetamido-5-chlorobenzamide | 0.023 moles, 10 g | C1(CCCCC1)CN1CCC(CC1)NC(C1=C(C=C(C(=C1)Cl)NC(C)=O)OC)=O | C22H32ClN3O3
reactant | methyl iodide | 0.033 moles, 1.8 ml | CI | CH3I
reactant | methyl iodide | 0.0023 moles, 1 g | CI | CH3I
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | N-(1-Cyclohexylmethylpiperid-4-yl)-2-methoxy-4-acetamido-5-chlorobenzamide methyl iodide | 10.5 g | CI.C1(CCCCC1)CN1CCC(CC1)NC(C1=C(C=C(C(=C1)Cl)NC(C)=O)OC)=O | InChI=1S/C22H32ClN3O3.CH3I/c1-15(27)24-20-13-21(29-2)18(12-19(20)23)22(28)25-17-8-10-26(11-9-17)14-16-6-4-3-5-7-16;1-2/h12-13,16-17H,3-11,14H2,1-2H3,(H,24,27)(H,25,28);1H3
